US06583156B1
2,8-Bis(trifluoromethyl)-α-ethoxymethyl-4-quinolinemethanol
A solution of (2,8-bis(trifluoromethyl)-4-quinolinyl)oxirane (208 mg, 0.68 mmol) in ether (3 mL) was treated with BF3.etherate (0.2 mL), stirred at room temperature for 2 h, poured into dilute NaHCO3 (20 mL) and extracted with EtOAc (2×20 mL). The combined extracts were dried (MgSO4), concentrated in vacuo and the residue purified by flash chromatography [SiO2; heptane-EtOAc (2:1)] to give the title compound (196 mg, 82%) as a yellow oil: IR νmax (Nujol)/cm−1 3700-3200, 3087, 2982, 2879, 1606, 1586, 1431, 1372, 1311, 1191, 1144, 1109, 769; NMR δH (400 MHz, CDCl3) 1.26 (3H, t, J 7.0 Hz), 3.24-3.31 (1H, br s), 3.48 (1H, dd, J 8.4, 9.6 Hz), 3.54-3.69 (2H, m), 3.84 (1H, dd, J 9.6, 3.2 Hz), 5.70 (1H, dd, J 8.4, 3.2 Hz), 7.75 (1H, t, J 7.9 Hz), 8.13 (1H, s), 8.17 (1H, d, J 7.5 Hz), 8.28 (1H, d, J 9.1 Hz); M/Z 354 (M+H)+.

reactant | (2,8-bis(trifluoromethyl)-4-quinolinyl)oxirane | 0.68 mmol, 208 mg | FC(C1=NC2=C(C=CC=C2C(=C1)C1OC1)C(F)(F)F)(F)F | C13H7F6NO
reactant | BF3 | B(F)(F)F | BF3
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | ether | 3 mL | CCOCC | C4H10O
product | 2,8-Bis(trifluoromethyl)-α-ethoxymethyl-4-quinolinemethanol | 196 mg, 82% | FC(C1=NC2=C(C=CC=C2C(=C1)C(O)COCC)C(F)(F)F)(F)F | C15H13F6NO2
